### PR TITLE
feat: implement constraints as finsets, allowing subsets of constraints to imply predicates

### PR DESCRIPTION
**Pull request by dtumad**
For cases like `addChip` we want to be able to say that the set of constraints implies the same property as the constraints on `addOperation` (since it calls that function). By treating constraint sets as `Finset` we can talk about this in terms of "subsets" of constraints

### CODE REVIEW

File: SP1Foundations/Constraint.lean [hunk 1]
```diff
@@ -27,13 +53,32 @@ def toProp : SP1Constraint → Prop
...
+@[simp] lemma constraintSet_toProp_insert (c : SP1Constraint) (cs : Finset SP1Constraint) :
+    constraintSet_toProp (insert c cs) = (c.toProp ∧ constraintSet_toProp cs) := by
+  simp [constraintSet_toProp]
+
+lemma toProp_of_mem_constraintSet (cs : Finset SP1Constraint) (c : SP1Constraint) :
+    c ∈ cs → constraintSet_toProp cs → c.toProp := by
+  sorry
+
+/-- A larger set of constraints `cs'` implies a smaller set of constraints `cs`. -/
+lemma toProp_imp_of_constraintSet_subset' (cs cs' : Finset SP1Constraint)
```
Comment (dtumad) [inline SP1Foundations/Constraint.lean:72]: This is the actual "useful" theorem. Can specialize to any chip that calls operations
